US08026234B2
Compound 139: 3-(cyclopentyl(2-(2-methoxy-4-(1-methylpiperidin-4-ylcarbamoyl)phenylamino)-5-(methylamino)pyrimidin-4-yl)amino)-2,2-difluoropropanoic acid
To a mixture of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylpiperidin-4-yl)benzamide (543 mg, 1 mmol) in 10 ml of DMF, was added 1N NaOH (5 ml) dropwise. The reaction mixture was stirred at rt. for 1 h and then subjected to reverse phase HPLC purification using basic column. The final compound was obtained by lyophilization first and then dried in the vacuum oven at 60° C. for 3 d (380 mg, 68%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.47-1.99 (m, 12H) 2.54 (d, J=2.8 Hz, 2H) 2.64-2.79 (m, 5H) 3.00 (d, J=4.6 Hz, 2H) 3.85-4.10 (m, 6H) 4.20 (d, J=7.3 Hz, 1H) 7.42 (s, 2H) 7.48 (d, J=8.3 Hz, 1H) 7.61-7.80 (m, 1H) 8.23 (br. s., 1H) 8.42 (d, J=8.3 Hz, 1H). [M+H] calc'd for C27H37F2N7O4, 562. found 562.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylpiperidin-4-yl)benzamide | 1 mmol, 543 mg | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C27H35F2N7O3
reactant | NaOH | 1N, 5 ml | [OH-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-(cyclopentyl(2-(2-methoxy-4-(1-methylpiperidin-4-ylcarbamoyl)phenylamino)-5-(methylamino)pyrimidin-4-yl)amino)-2,2-difluoropropanoic acid | C1(CCCC1)N(CC(C(=O)O)(F)F)C1=NC(=NC=C1NC)NC1=C(C=C(C=C1)C(NC1CCN(CC1)C)=O)OC | C27H37F2N7O4
